US05166399
Methyl 2-[4-(1-benzyloxyiminoethyl)phenoxymethyl]phenylglyoxylate O-methyloxime
5.3 g (0.016 mol) of methyl 2-(4-acetylphenoxymethyl)phenylglyoxylate O-methyloxime and 3.0 g (0.019 mol) of benzyloxyamine hydrochloride in 60 ml of methanol are stirred at room temperature for 24 hours. The mixture is then hydrolyzed with water and extracted with methyl tert-butyl ether. The organic phase is washed with water, dried and concentrated. 5.9 g (83%) of the title compound are obtained in the form of colorless crystals (melting point 104°-106° C., compound no. 590).

reactant | methyl 2-(4-acetylphenoxymethyl)phenylglyoxylate O-methyloxime | 0.016 mol, 5.3 g | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC=C(C=C1)C(C)=O | C19H19NO5
reactant | benzyloxyamine hydrochloride | 0.019 mol, 3.0 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 60 ml | CO | CH4O
product | Methyl 2-[4-(1-benzyloxyiminoethyl)phenoxymethyl]phenylglyoxylate O-methyloxime | 5.9 g, 83% | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC=C(C=C1)C(C)=NOCC1=CC=CC=C1 | C26H26N2O5
